US08278457B2
Step 7. Synthesis of N-[(1S,2R)-2-(4-bromophenoxy)cyclohexyl]propane-2-sulfonamide
The title compound of Step 7 was prepared according to the general procedure for the synthesis of cis-N-[2-(4-bromophenoxy)cyclopentyl]propane-2-sulfonamide in Example 5, except that (1S,2R)-2-(4-bromophenoxy)cyclohexanamine was used in place of cis-2-(4-bromophenoxy)cyclopentan-amine, and the product purification was carried out using a gradient of 0% to 1% methanol in dichloromethane. N-[(1S,2R)-2-(4-bromophenoxy)cyclohexyl]propane-2-sulfonamide was obtained as a white foam. Yield: 1.67 g, 4.44 mmol, 75%. 1H NMR (400 MHz, CDCl3) δ 1.36 (d, J=6.9 Hz, 3H), 1.37 (d, J=6.9 Hz, 3H), 1.37-1.48 (m, 4H), 1.77-1.88 (m, 3H), 2.06 (m, 1H), 3.12 (septet, J=6.8 Hz, 1H), 3.54 (m, 1H), 4.48 (d, J=9.5 Hz, 1H), 4.54 (m, 1H), 6.84 (d, J=9.0 Hz, 2H), 7.39 (d, J=9.0 Hz, 2H). The enantiomer of N-[(1S,2R)-2-(4-bromophenoxy)cyclohexyl]propane-2-sulfonamide was prepared using similar chemistry to that described above in this Step 7, but employing (1S,2S)-2-(4-bromophenoxy)cyclohexanol as starting material instead of (1R,2R)-2-(4-bromophenoxy)cyclohexanol. The absolute stereochemistry of the enantiomer of N-(1S,2R)-2-(4-bromophenoxy)cyclohexyl]propane-2-sulfonamide was established via X-ray crystallography.

reactant | cis-N-[2-(4-bromophenoxy)cyclopentyl]propane-2-sulfonamide | BrC1=CC=C(O[C@@H]2[C@@H](CCC2)NS(=O)(=O)C(C)C)C=C1 | C14H20BrNO3S
reactant | (1S,2R)-2-(4-bromophenoxy)cyclohexanamine | BrC1=CC=C(O[C@H]2[C@H](CCCC2)N)C=C1 | C12H16BrNO
product | N-[(1S,2R)-2-(4-bromophenoxy)cyclohexyl]propane-2-sulfonamide | BrC1=CC=C(O[C@H]2[C@H](CCCC2)NS(=O)(=O)C(C)C)C=C1 | C15H22BrNO3S
